US05604229
(8) 2-[3-(trans-1-Octenyl)phenyl]ethyl Iodide
Sodium iodide (3.99 g) was added to a solution of the above-mentioned compound (5.51 g) in 2-butanone (60 ml) and the mixture was stirred at 45° C. for 3 hours. The reaction mixture was concentrated, poured into ice water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=100:1) to give 4.75 g of the subject compound as an oily substance.

reactant | Sodium iodide | 3.99 g | [I-].[Na+]
reactant | 2-butanone | 60 ml | CC(CC)=O | C4H8O
product | 2-[3-(trans-1-Octenyl)phenyl]ethyl Iodide | 4.75 g | C(=C\CCCCCC)/C=1C=C(C=CC1)CCI | C16H23I
